US05958918
3-(3-(S)-Amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride.
To a solution of (S)-Boc-diaminobutyric acid (25 g, 115 mmol), triethylamine (35 g, 344 mmol), and hydroxybenzotriazole (19.3 g, 143 mmol) in 0.5 L of THF is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (27.4 g, 143 mmol). The solution is heated to 60° C. over 15 minutes. A white precipitate forms and the solution is kept at 60° C. for 4 hours. After this time, the solution is filtered and the collected liquid is concentrated. The crude product is purified by column chromatography in a gradient of 1% MeOH/CH2Cl2 to 3% MeOH/CH2Cl2 to afford the title compound (19.6 g, 98 mmol) as a white solid.

reactant | (S)-Boc-diaminobutyric acid | 115 mmol, 25 g | C(=O)(OC(C)(C)C)[C@H](C(C(=O)O)(N)N)C | C9H18N2O4
reactant | triethylamine | 344 mmol, 35 g | C(C)N(CC)CC | C6H15N
reactant | hydroxybenzotriazole | 143 mmol, 19.3 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 143 mmol, 27.4 g | Cl.CN(CCCN=C=NCC)C
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
product | 3-(3-(S)-Amino-2-oxopyrrolidin-1-ylmethyl)benzonitrile hydrochloride | 98 mmol, 19.6 g | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O | InChI=1S/C12H13N3O.ClH/c13-7-9-2-1-3-10(6-9)8-15-5-4-11(14)12(15)16;/h1-3,6,11H,4-5,8,14H2;1H/t11-;/m0./s1
